US04478833
2-(2-Hydroxyethyl-amino)-4-(1-oxido-thiomorpholino)-8-pyrrolidino-pyrimido[5,4-d]pyrimidine
This compound was prepared analogous to Example 3 from 2-chloro-4-(1-oxido-thiomorpholino)-8-pyrrolidinopyrimido[5,4-d]pyrimidine (melting point: 243°-244° C.) and 2-hydroxyethyl-amine.

reactant | 2-chloro-4-(1-oxido-thiomorpholino)-8-pyrrolidinopyrimido[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)N2CCCC2)N2CCS(CC2)=O | C14H17ClN6OS
reactant | 2-hydroxyethyl-amine | OCCN | C2H7NO
product | 2-(2-Hydroxyethyl-amino)-4-(1-oxido-thiomorpholino)-8-pyrrolidino-pyrimido[5,4-d]pyrimidine | OCCNC=1N=C(C2=C(N1)C(=NC=N2)N2CCCC2)N2CCS(CC2)=O | C16H23N7O2S
